US03952104
A solution of 5 parts of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid and 1.35 parts of piperidine in 50 parts of ethanol was refluxed for 2 hours. The resulting solution was filtered and evaporated to an oil which was dissolved in dry benzene. The benzene solution was evaporated to give an oil which was triturated with petroleum ether (b.p. 40°-60° C) to give 6 parts of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid piperidine salt as a white solid m.p. 106°-107° C.

reactant | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)O)=O)OCCC(C)C | C18H20O5
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid piperidine salt | N1CCCCC1.C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)O)=O)OCCC(C)C | InChI=1S/C18H20O5.C5H11N/c1-4-5-12-6-7-14(22-9-8-11(2)3)16-13(19)10-15(18(20)21)23-17(12)16;1-2-4-6-5-3-1/h4,6-7,10-11H,1,5,8-9H2,2-3H3,(H,20,21);6H,1-5H2
